US06677368B2
To a solution of 4-(3-chloro-phenyl)-1,3-dihydro-indol-2-one (60.9 mg, 0.25 mmol) and 3,5-dimethyl-4-(4-methyl-piperazine-1-carbonyl)-1H-pyrrole-2-carbaldehyde (64.8 mg, 0.26 mmol) in ethanol (2 mL) was added piperidine (3 drops). The reaction mixture was stirred at room temperature for three days. A yellow solid product was precipitated out, filtered, washed by ethanol for three times, and dried under high vacuum to provide 3-[3,5-dimethyl-4-(4-methyl-piperazine-1-carbonyl)-1H-pyrrol-2-ylmethylene]-4-(3-chloro-phenyl)-1,3-dihydro-indol-2-one as a yellow solid (61 mg, 51%).

reactant | 4-(3-chloro-phenyl)-1,3-dihydro-indol-2-one | 0.25 mmol, 60.9 mg | ClC=1C=C(C=CC1)C1=C2CC(NC2=CC=C1)=O | C14H10ClNO
reactant | 3,5-dimethyl-4-(4-methyl-piperazine-1-carbonyl)-1H-pyrrole-2-carbaldehyde | 0.26 mmol, 64.8 mg | CC1=C(NC(=C1C(=O)N1CCN(CC1)C)C)C=O | C13H19N3O2
solvent | ethanol | 2 mL | C(C)O | C2H6O
catalyst | piperidine | 3 drops | N1CCCCC1 | C5H11N
product | 3-[3,5-dimethyl-4-(4-methyl-piperazine-1-carbonyl)-1H-pyrrol-2-ylmethylene]-4-(3-chloro-phenyl)-1,3-dihydro-indol-2-one | 61 mg, 51% | CC1=C(NC(=C1C(=O)N1CCN(CC1)C)C)C=C1C(NC2=CC=CC(=C12)C1=CC(=CC=C1)Cl)=O | C27H27ClN4O2
